US05861417
3.3.8 Synthesis of (+)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine hydrochloric acid salt
Combine 1-t-butoxycarbonyl-3-phenyl-3-(2-hydroxyethyl)pyrrolidine (13.0 g, 44.6 mmol) and a solution of hydrochloric acid in dioxane (22.3 mL, 4M, 89.2 mmol). Heat to 50° C. After 1 hour, cool and add diethyl ether to give a solid. Collect the solid by filtration to give, after drying, the title compound: mp; 161°-163° C. [α]2D0 =+11.8 (c=0.563, methanol). Elemental Analysis calculated for C12H17NO·HCl: C 63.29; H 7.97; N 6.15; Found: C 63.21; H 7.86; N 6.05.

reactant | 1-t-butoxycarbonyl-3-phenyl-3-(2-hydroxyethyl)pyrrolidine | 44.6 mmol, 13.0 g | C(C)(C)(C)OC(=O)N1CC(CC1)(CCO)C1=CC=CC=C1 | C17H25NO3
reactant | hydrochloric acid | Cl | ClH
reactant | dioxane | 89.2 mmol, 4M, 22.3 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | (+)-3-phenyl-3-(2-hydroxyethyl)pyrrolidine hydrochloric acid salt | Cl.C1(=CC=CC=C1)C1(CNCC1)CCO | InChI=1S/C12H17NO.ClH/c14-9-7-12(6-8-13-10-12)11-4-2-1-3-5-11;/h1-5,13-14H,6-10H2;1H
